US05190929
A. Preparation of 1-(p-tolyl)-3-buten-1-ol
5.90 ml (50 mmol) p-tolualdehyde was dissolved in 150 ml of DMI, and 5.5 ml (60 mmol, 1.2 eq.) allyl iodide and 10.34 g (66 mmol, 1.3 eq.) SnF2 were added. The reaction became warm to the touch and much precipitate formed as the reaction progressed. After stirring for 1 hour at room temperature, 200 ml of H2O was added, the mixture was extracted with Et2O (1×250 ml, 2 ×100 ml), the combined Et2O layers were washed with sat. NH4Cl (3×50 ml, to remove excess DMI), dried over MgSO4, and evaporated in vacuo to an oil. Flash chromatography (1:4 EtOAc:hexanes, Rf 0.56) yielded 7.5 g (93%) of product as a clear oil. 1H NMR (CDCl3): 7.25 and 7.15 (4H, phenyl), 5.8 and 5.15 (3H, vinyl), 4.65 (1H, CHOH), 2.5 (2H, CH2), 2.35 (2H, CH2), 2.35 (3H, CH3), and 2.15 (1H, OH) ppm.

reactant | p-tolualdehyde | 50 mmol, 5.90 ml | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | allyl iodide | 60 mmol, 5.5 ml, 1.2 eq. | C(C=C)I | C3H5I
reactant | H2O | 200 ml | O | H2O
solvent | DMI | 150 ml | CN1CCN(C1=O)C | C5H10N2O
product | 1-(p-tolyl)-3-buten-1-ol | 7.5 g, 93% | C1(=CC=C(C=C1)C(CC=C)O)C | C11H14O
